US04005099
In the manner given in Example 4, N-[[1-[4-fluoro-2-(m-chlorobenzoyl)phenyl]-2-[(dimethylamino)methyl]-4-methylimidazol-5-yl]methyl]phthalimide in ethanol is heated with hydrazine hydrate to give 8-fluoro-6-(m-chlorophenyl)-1-[(dimethylamino)methyl]-3-methyl-4H-imidazo[1,5-a][1,4]benzodiazepine.

reactant | N-[[1-[4-fluoro-2-(m-chlorobenzoyl)phenyl]-2-[(dimethylamino)methyl]-4-methylimidazol-5-yl]methyl]phthalimide | FC1=CC(=C(C=C1)N1C(=NC(=C1CN1C(C=2C(C1=O)=CC=CC2)=O)C)CN(C)C)C(C2=CC(=CC=C2)Cl)=O | C29H24ClFN4O3
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 8-fluoro-6-(m-chlorophenyl)-1-[(dimethylamino)methyl]-3-methyl-4H-imidazo[1,5-a][1,4]benzodiazepine | FC=1C=CC2=C(C(=NCC=3N2C(=NC3C)CN(C)C)C3=CC(=CC=C3)Cl)C1 | C21H20ClFN4
